US06713474B2
A mixture of trans-5-(3-methoxy-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine acetate (50 mg, 0.098 mmol) in 48% aqueous hydrobromic acid (1 mL) was heated at 120° C. for 2 hours. The solution was cooled and concentrated under reduced pressure then purified by preparative RP-HPLC to give trans-5-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-phenoxyphenol (32 mg, 66%): 1H NMR (DMSO-d6, 400 MHz) δ 9.8(bs, 1H), 8.13(s, 1H), 7.39(s, 1H), 7.31(t, 2H), 7.03(m, 3H), 6.89(m, 3H), 6.17(bs, 2H), 4.55(m, 1H), 2.2-2.6(m, 9H), 2.15(s, 3H), 1.8-2.2(m, 6H), 1.44 (m, 2H); MS MH+499.4; RP-HPLC (Hypersil HS, 5 μm, 100 A 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 ml/min) tr 13.47 min.

reactant | trans-5-(3-methoxy-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine acetate | 0.098 mmol, 50 mg | C(C)(=O)O.COC=1C=C(C=CC1OC1=CC=CC=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C
solvent | hydrobromic acid | 1 mL | Br | BrH
product | trans-5-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-phenoxyphenol | 32 mg, 66% | NC=1C2=C(N=CN1)N(C=C2C=2C=CC(=C(C2)O)OC2=CC=CC=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C29H34N6O2
